data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(Cl)cc1OC)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(Cl)cc1OC)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(Cl)cc1OC)C(C)C", "products": "COc1cc(Cl)ccc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21"}, {"reactants": "COc1cc(Cl)ccc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21", "products": "COc1cc(Cl)ccc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH]"}, {"reactants": "COc1cc(Cl)ccc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH].[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1cc(Cl)ccc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]"}, {"reactants": "COc1cc(Cl)ccc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]", "products": "COc1cc(Cl)ccc1[Si]1(c2ccccc2)OC(C(C)C)CC1CC=O.[Rh]"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)C)c([Si](C)(C)CF)c(OC)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)CF)c(OC)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)CF)c(OC)c1=C", "products": "COc1c2c(cc([Si](C)(C)C)c1[Si](C)(C)CF)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)CCl)c([Si](C)(C)C)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CCl)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CCl)c([Si](C)(C)C)cc1=C", "products": "C[C@]12CC[C@@H]3c4cc([Si](C)(C)CCl)c([Si](C)(C)C)cc4CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COC(O[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12)c1ccc(F)cc1", "products": "COC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1ccc(F)cc1"}, {"reactants": "COC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1ccc(F)cc1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(OC)c1ccc(F)cc1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(OC)c1ccc(F)cc1", "products": "COC(O[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1)c1ccc(F)cc1"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccccc1Br)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccccc1Br)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccccc1Br)C(C)C", "products": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2ccccc2Br)O1"}, {"reactants": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2ccccc2Br)O1", "products": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2ccccc2Br)O1"}, {"reactants": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2ccccc2Br)O1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2ccccc2Br)O1"}, {"reactants": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2ccccc2Br)O1", "products": "CC(C)C1CC(CC=O)[Si](c2ccccc2)(c2ccccc2Br)O1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "Cc1ccc(S(=O)(=O)OC2C(OS(=O)(=O)c3ccc(C)cc3)C3(C)COC(C)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2=CC3(C)OCC(C)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2=CC3(C)OCC(C)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(C)OCC2(C)O3)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(C)OCC2(C)O3)cc1", "products": "CC12COC(C)(O1)C1C(=O)C12"}, {"reactants": "CC12COC(C)(O1)C1C(=O)C12.[O-]C", "products": "COC1([O-])C2C1C1(C)OCC2(C)O1"}, {"reactants": "COC1([O-])C2C1C1(C)OCC2(C)O1.CO", "products": "COC(=O)C1CC2(C)COC1(C)O2"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1cccc(F)c1C1(O)C(=O)CC2CCC1(C)C2(C)C.[H+]", "products": "COc1cccc(F)c1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C"}, {"reactants": "COc1cccc(F)c1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C", "products": "COc1cccc(F)c1[C+]1C(=O)CC2CCC1(C)C2(C)C.O"}, {"reactants": "COc1cccc(F)c1[C+]1C(=O)CC2CCC1(C)C2(C)C", "products": "COc1cccc(F)c1C12CCC(CC1=O)C(C)(C)[C+]2C"}, {"reactants": "COc1cccc(F)c1C12CCC(CC1=O)C(C)(C)[C+]2C", "products": "COc1cccc(F)c1C1=C(C)C(C)(C)C(C#[O+])CC1"}, {"reactants": "COc1cccc(F)c1C1=C(C)C(C)(C)C(C#[O+])CC1.O", "products": "COc1cccc(F)c1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1"}, {"reactants": "COc1cccc(F)c1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1", "products": "COc1cccc(F)c1C1CCC(C(=O)O)C(C)(C)[C+]1C"}, {"reactants": "COc1cccc(F)c1C1CCC(C(=O)O)C(C)(C)[C+]1C", "products": "COc1cccc(F)c1C1CCC2C(=O)[OH+]C1(C)C2(C)C"}, {"reactants": "COc1cccc(F)c1C1CCC2C(=O)[OH+]C1(C)C2(C)C", "products": "COc1cccc(F)c1C1CCC2C(=O)OC1(C)C2(C)C.[H+]"}]}
